US09108969B2
Step B: Preparation of 2-(2-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetic Acid
To a solution of ethyl 2-(2-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate (143 mg, 0.286 mmol) in dioxane (1.5 mL) was added 1 M LiOH aqueous solution (1.15 mL, 1.145 mmol). The reaction mixture was stirred at 45° C. for 3 h. A portion of the solvent was removed in vacuo. The remaining mixture was diluted with water, acidified with 0.5 M aqueous citric acid to pH 4, and extracted with ethyl acetate. The combined organics were washed with water, dried over anhydrous Na2SO4, and concentrated to give the title compound (105 mg). LCMS m/z=472.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.54-1.66 (m, 3H), 1.67-1.80 (m, 2H), 1.80-1.92 (m, 2H), 2.00-2.24 (m, 5H), 2.64 (dd, J=16.1 and 8.7 Hz, 1H), 3.01 (dd, J=16.1 and 5.3 Hz, 1H), 3.33-3.42 (m, 1H), 3.45-3.55 (m, 1H), 3.85-3.94 (m, 1H), 4.12-4.18 (m, 1H), 5.08 (s, 2H), 6.22 (s, 1H), 6.90 (dd, J=8.8 and 2.4 Hz, 1H), 7.10 (d, J=2.4 Hz, 1H), 7.17 (d, J=8.8 Hz, 1H), 7.47 (d, J=8.1 Hz, 1H), 7.59 (d, J=8.1 Hz, 1H), 7.70 (s, 1H).

reactant | ethyl 2-(2-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 0.286 mmol, 143 mg | C1(CCCC1)C1=C(C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)OCC)C=C1)C(F)(F)F | C29H32F3NO3
reactant | LiOH | 1.145 mmol, 1 M, 1.15 mL | [Li+].[OH-]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 2-(2-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetic Acid | 105 mg | C1(CCCC1)C1=C(C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)O)C=C1)C(F)(F)F | C27H28F3NO3
